US08242104B2
8-Azetidin-3-yl-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene hydrochloride was prepared similarly to 8-azetidin-3-yl-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene hydrochloride from 3-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl]-azetidine-1-carboxylic acid tert-butyl ester. LCMS: RT=2.86 min, M+H+=351 (20%), M+H+-iPr=308 (100%).

reactant | 8-azetidin-3-yl-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene hydrochloride | Cl.N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C=C1
reactant | 3-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl]-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C24H30N6O3
product | 8-Azetidin-3-yl-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene hydrochloride | Cl.N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C(C)C)C=C1 | InChI=1S/C19H22N6O.ClH/c1-12(2)25-19(21-11-22-25)24-10-14-5-6-26-17-7-13(15-8-20-9-15)3-4-16(17)18(14)23-24;/h3-4,7,10-12,15,20H,5-6,8-9H2,1-2H3;1H
